US05523400
(6R,7R )-7-[(Z)-2-(2-Amino-thiazol-4-yl)-2-hydroxyiminoacetylamino]-8-oxo-3-[(E)-2-oxo-1-(2,2,2-trifluoro-ethyl)-pyrrolidin-3-ylidenemethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid
1.83 g (mMol) (6R,7R)-7-[(Z)-2-(2-Amino-thiazol-4-yl)-2-hydroxyimino-acetylamino]-8-oxo-3-[(E)-2-oxo-1-(2,2,2-trifluoroethyl)-pyrrolidin-3-ylidenemethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid trifluoroacetate (1:0.5) were added with stirring portionwise to 18 ml 95% ethanol. After 1.5 hours the solid material was filtered off, washed with ethanol and n-hexane and dried.

reactant | (6R,7R)-7-[(Z)-2-(2-Amino-thiazol-4-yl)-2-hydroxyimino-acetylamino]-8-oxo-3-[(E)-2-oxo-1-(2,2,2-trifluoroethyl)-pyrrolidin-3-ylidenemethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid trifluoroacetate | 1.83 g | FC(C(=O)O)(F)F.NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC(F)(F)F)=O)=N/O
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | (6R,7R )-7-[(Z)-2-(2-Amino-thiazol-4-yl)-2-hydroxyiminoacetylamino]-8-oxo-3-[(E)-2-oxo-1-(2,2,2-trifluoro-ethyl)-pyrrolidin-3-ylidenemethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC(F)(F)F)=O)=N/O | C19H17F3N6O6S2
